US07235667B2
3-methyl-4-[2-[N-(5-methyl-2-furylsulfonyl)amino]-4,5-dimethylphenoxymethyl]benzoic acid methyl ester
A solution of 4-(2-amino-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester prepared in Reference Example 2 (632 mg) in pyridine (4 ml) was cooled to 0° C., then 5-methylfuran-2-sulfonyl chloride (490 mg) was added dropwise thereto. After the solution was stirred for 1 hour at room temperature, the reaction mixture was diluted by ethyl acetate, and poured into water. The organic layer was washed, dried, concentrated under reduced pressure. The residue was washed by mixed solvent of diisopropylether and hexane to give the title compound (875 mg) having the following physical data.

reactant | 4-(2-amino-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester | COC(C1=CC(=C(C=C1)COC1=C(C=C(C(=C1)C)C)N)C)=O | C18H21NO3
reactant | 5-methylfuran-2-sulfonyl chloride | 490 mg | CC1=CC=C(O1)S(=O)(=O)Cl | C5H5ClO3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 3-methyl-4-[2-[N-(5-methyl-2-furylsulfonyl)amino]-4,5-dimethylphenoxymethyl]benzoic acid methyl ester | 875 mg | COC(C1=CC(=C(C=C1)COC1=C(C=C(C(=C1)C)C)NS(=O)(=O)C=1OC(=CC1)C)C)=O | C23H25NO6S
